US07423030B2
18.2. 4-Benzyl-5,7-dimethoxy-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 3,5-dimethoxy-2-(phenylacetyl)benzoic acid with hydrazine hydrate.

reactant | 3,5-dimethoxy-2-(phenylacetyl)benzoic acid | COC=1C(=C(C(=O)O)C=C(C1)OC)C(CC1=CC=CC=C1)=O | C17H16O5
reactant | hydrazine hydrate | O.NN
product | 4-Benzyl-5,7-dimethoxy-2H-phthalazin-1-one | C(C1=CC=CC=C1)C1=NNC(C2=CC(=CC(=C12)OC)OC)=O | C17H16N2O3
